US06858651B2
A solution of 2.45 g (7.2 mmol) trans-5-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexyl]-pent-2-enoic acid ethyl ester and 200 mg of Pd/C (10%) in 40 ml MeOH was stirred for 20 h under H2-atmosphere. After filtration and evaporation of the methanol under vacuo, 2.39 g 5-[4-(tert-Butoxy carbonyl-methyl-amino)-cyclohexyl]-pentanoic acid ethyl ester could be isolated. 2.05 g (6.0 mmol) of this ester and 470 mg (12 mmol) of LiAlH4 were stirred in 20 ml of THF at RT for 5 h. Exess of LiAlH4 was destroyed by adding 10 ml of EtOAc and by carefully dropping brine to the reaction-mixture. The solution was dissolved in ether and washed with 1N HCl and water. The organic phase was concentrated under reduced pressure yielding 1.75 g (97%) of clean trans-[4-(5-Hydroxy pentyl)-cyclohexyl)-methyl-carbamic acid tert-butyl ester, MS: 300 (MH+).

reactant | trans-5-[4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexyl]-pent-2-enoic acid ethyl ester | 7.2 mmol, 2.45 g | C(C)OC(C=CCC[C@@H]1CC[C@H](CC1)N(C)C(=O)OC(C)(C)C)=O | C19H33NO4
reactant | LiAlH4 | 12 mmol, 470 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | MeOH | 40 ml | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | trans-[4-(5-Hydroxy pentyl)-cyclohexyl)-methyl-carbamic acid tert-butyl ester | 1.75 g, 97% | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)CCCCCO)=O | C17H33NO3
